US05527972
Tetrahydrofuran (230 ml) and sodium t-butoxide (57.6 g; 40% w/v solution in dimethylformamide) was charged to a split-neck reaction flask, and cooled to -60° C. with stirring. 1-Bromo-1-chloro-2,2,2-trifluorethane (47.6 g) and senecialdehyde (20.9 g) were charged simultaneously over 25 minutes, then the mixture was stirred at -60° C. for a further 30 minutes. On completion of reaction, the mass was quenched by controlled addition of saturated ammonium chloride solution (120 ml). Hexane (500 ml) was added to the mixture, then the aqueous phase was separated and extracted with further hexane (2×500 ml). The combined organics were washed with brine (2×100 ml) and then water (3×20 ml). Drying (sodium sulphate) and concentration in vacuo then gave the product 5-bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene as a mobile yellow oil (50.1 g, 70% yield).

reactant | sodium t-butoxide | 57.6 g | CC(C)([O-])C.[Na+]
reactant | 1-Bromo-1-chloro-2,2,2-trifluorethane | 47.6 g | BrC(C(F)(F)F)Cl | C2HBrClF3
reactant | senecialdehyde | 20.9 g | C(C=C(C)C)=O | C5H8O
solvent | Tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
product | 5-bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene | 50.1 g, 70% yield | BrC(C(C=C(C)C)O)(C(F)(F)F)Cl | C7H9BrClF3O
